US04120969
4-{[4-(4-Chlorophenyl)-4-hydroxyl-1-piperidinyl]methyl}-3,3-diphenyl-1-(1-methylethyl)-2-pyrrolidinone Oxalate Monohydrate
A mixture of 18 g. (0.06 mole) of 4-chloromethyl-1-(1-methylethyl)-3,3-diphenyl-2-pyrrolidinone, 11.6 g. (0.06 mole) of 4-(4-chlorophenyl)-4-hydroxypiperidine and 20 g. (0.14 mole) potassium carbonate in 200 ml. of ethanol was heated to 200° C. for 48 hrs. in a steel bomb. During the heating the bomb was continuously rotated to produce mild stirring. The mixture was concentrated and the residue partitioned between chloroform sodium hydroxide. The chloroform was dried (sodium sulfate) and concentrated. The residue was dissolved in ethyl-acetate and treated with ethereal hydrogen chloride. The mixture was filtered and the filtrate extracted with water. The acid layer was made basic with dilute sodium hydroxide and extracted with chloroform which was dried (sodium sulfate) and concentrated. The residue was dissolved in isopropyl alcohol and treated with oxalic acid. The resulting crystals were recrystallized from ethanol-water. The product (3 g., 10%) melted at 240° C. (dec.).

reactant | 4-chloromethyl-1-(1-methylethyl)-3,3-diphenyl-2-pyrrolidinone | 0.06 mole | ClCC1C(C(N(C1)C(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22ClNO
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 0.06 mole | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | potassium carbonate | 0.14 mole | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-{[4-(4-Chlorophenyl)-4-hydroxyl-1-piperidinyl]methyl}-3,3-diphenyl-1-(1-methylethyl)-2-pyrrolidinone Oxalate Monohydrate | O.C(C(=O)O)(=O)O.ClC1=CC=C(C=C1)C1(CCN(CC1)CC1C(C(N(C1)C(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1)O | InChI=1S/C31H35ClN2O2.C2H2O4.H2O/c1-23(2)34-22-27(21-33-19-17-30(36,18-20-33)24-13-15-28(32)16-14-24)31(29(34)35,25-9-5-3-6-10-25)26-11-7-4-8-12-26;3-1(4)2(5)6;/h3-16,23,27,36H,17-22H2,1-2H3;(H,3,4)(H,5,6);1H2
